US04416895
A solution of 2-chloromethylpyridine hydrochloride (16.4 g, 0.1 mol) in ethanol (50 ml) was added dropwise to a stirred, boiling solution of potassium tert-butoxide (22.4 g, 0.2 mol) and imidazole (6.8 g, 0.1 mol) in dry butan-1-ol (100 ml). Following the addition, the reaction mixture was stirred and heated under reflux for 5 h. After removal of the solvents under reduced pressure, the resulting oil was dissolved in hydrochloric acid (150 ml, 2 M), and the acid solution was washed with ether (100 ml). The acid solution was then basified with sodium hydroxide solution (10 M), and the basic solution was extracted with chloroform (3×100 ml). The chloroform solutions were combined, dried (MgSO4 ), and the chloroform was then removed under reduced pressure. The residue was purified by using a silica-gel column and by elution with chloroform/methanol (9:1). The resulting solid was recrystallised from ethanol/light petroleum affording 1-(2-pyridylmethyl)imidazole as white cubes, m.p. 79°-80°.

reactant | 2-chloromethylpyridine hydrochloride | 0.1 mol, 16.4 g | Cl.ClCC1=NC=CC=C1
reactant | potassium tert-butoxide | 0.2 mol, 22.4 g | CC(C)([O-])C.[K+]
reactant | imidazole | 0.1 mol, 6.8 g | N1C=NC=C1 | C3H4N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | butan-1-ol | 100 ml | C(CCC)O | C4H10O
product | 1-(2-pyridylmethyl)imidazole | N1=C(C=CC=C1)CN1C=NC=C1 | C9H9N3
